US07524849B2
A mixture of 6-chloro-2-(5-nitropyridin-2-yl)-N-(2,2,2-trifluoroethyl)-5-(2,4,6-trifluorophenyl)pyrimidin-4-amine (101 mg, 0.22 mmol) and Iron powder (256 mg, 4.58 mmol) in 2 mL of methyl alcohol and 1 mL of acetic acid is heated at 100° C. for 1 h. The reaction mixture is cooled to room temperature and diluted with ethyl acetate. The organic layer is washed with saturated sodium bicarbonate and then with saturated sodium chloride, dried over magnesium sulfate, filtered, concentrated and dried under reduced pressure to yield 2-(5-aminopyridin-2-yl)-6-chloro-N-(2,2,2-trifluoroethyl)-5-(2,4,6-trifluorophenyl)pyrimidin-4-amine as a light yellow oil (100 mg). MS: m/z 434.2 (M+H). This product is used in the next step with out further purification.

reactant | 6-chloro-2-(5-nitropyridin-2-yl)-N-(2,2,2-trifluoroethyl)-5-(2,4,6-trifluorophenyl)pyrimidin-4-amine | 0.22 mmol, 101 mg | ClC1=C(C(=NC(=N1)C1=NC=C(C=C1)[N+](=O)[O-])NCC(F)(F)F)C1=C(C=C(C=C1F)F)F | C17H8ClF6N5O2
solvent | methyl alcohol | 2 mL | CO | CH4O
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Iron | 4.58 mmol, 256 mg | [Fe] | Fe
product | 2-(5-aminopyridin-2-yl)-6-chloro-N-(2,2,2-trifluoroethyl)-5-(2,4,6-trifluorophenyl)pyrimidin-4-amine | 100 mg | NC=1C=CC(=NC1)C1=NC(=C(C(=N1)NCC(F)(F)F)C1=C(C=C(C=C1F)F)F)Cl | C17H10ClF6N5
